US06664265B2
A solution of tert-butyl 2-[2-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (14.3 g, 35.8 mmol) in 90 mL of CH2Cl2 was treated with 90 mL of concentrated NH4OH solution. The mixture was chilled in an ice water bath. To the rapidly stirred mixture was added solid p-toluenesulfonyl chloride (7.05 g, 37.0 mmol) over a 10 min period. The reaction mixture was then warmed to room temperature. After 30 min, the reaction was treated with 90 mL of CH2Cl2 and 90 mL of water. The organic portion was then washed with 1% Na2CO3 solution (2×), water, brine, dried over Na2SO4 and concentrated. The resulting solid was triturated in ether and filtered to yield 9.35 g of tert-butyl 2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a light tan solid.

reactant | tert-butyl 2-[2-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 35.8 mmol, 14.3 g | C(C)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C21H28N4O4
reactant | NH4OH | 90 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 37.0 mmol, 7.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 90 mL | O | H2O
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 9.35 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(OC(C)(C)C)=O)CC | C21H29N5O3
